US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-(3-phenylpropyl)-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0625 g, 0.213 mmol) and (3-bromopropyl)benzene (0.050 mL, 0.329 mmol) in 2 CH3CN/3 CHCl3 (5.0 mL) were reacted to give the desired product (0.0722 g, 72.2%). EI-MS m/z 412(M+) Rt (2.01 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.213 mmol, 0.0625 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | (3-bromopropyl)benzene | 0.329 mmol, 0.050 mL | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | CH3CN | 5.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-(3-phenylpropyl)-1-azoniabicyclo[2.2.2]octane bromide | 0.0722 g, 72.2% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCC2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H34NO.BrH/c31-29(26-14-6-2-7-15-26,27-16-8-3-9-17-27)28-18-22-30(23-19-28,24-20-28)21-10-13-25-11-4-1-5-12-25;/h1-9,11-12,14-17,31H,10,13,18-24H2;1H/q+1;/p-1
